US05202312
N-Pivaloyl-L-phenylalanine and N-methyl-L-phenylalanyl-L-histidine methyl ester are treated in the same manner as described in Example 1 to give N-pivaloyl-L-phenylalanyl-N-methyl-L-phenylalanyl-L-histidine methyl ester.

reactant | N-Pivaloyl-L-phenylalanine | C(C(C)(C)C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO3
reactant | N-methyl-L-phenylalanyl-L-histidine methyl ester | COC([C@@H](NC([C@@H](NC)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C17H22N4O3
product | N-pivaloyl-L-phenylalanyl-N-methyl-L-phenylalanyl-L-histidine methyl ester | COC([C@@H](NC([C@@H](N(C)C([C@@H](NC(C(C)(C)C)=O)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C31H39N5O5
